US07579474B2
4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-ISOPROPYLPIPERIDIN-4-OL
Preparation according to Example 2: 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol (0.02 g, 0.076 mmol), acetonitrile (2 ml), potassium carbonate (0.02 g, 0.14 mmol), 2-bromopropane (0.008 ml, 0.082 mmol). MS m/z (relative intensity, 70 eV) 305 (M+, 5), 290 (79), 191 (30), 163 (18), 56 (bp).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol | 0.076 mmol, 0.02 g | FC1=C(C=CC=C1C(F)(F)F)C1(CCNCC1)O | C12H13F4NO
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 0.082 mmol, 0.008 ml | BrC(C)C | C3H7Br
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-ISOPROPYLPIPERIDIN-4-OL | FC1=C(C=CC=C1C(F)(F)F)C1(CCN(CC1)C(C)C)O | C15H19F4NO
